reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:3](=[O:4])=[C:5]=[C:6]([H:7])[H:10].[O:1]=[C:2]([H:8])[H:9]>>[O:1]([C:2]([C:3](=[O:4])[C:5]#[C:6][H:10])([H:8])[H:9])[H:7],27.5808846274977
[C:1]([C@@:2]([C:3]([O:4][H:13])([H:11])[H:12])([O+:6]=[C-:5][H:14])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]([C:3]([O:4][H:13])([H:11])[H:12])([C:5](=[O:6])[H:14])[H:10])([H:7])([H:8])[H:9],49.8153955732052
[C:1]([C:2]([C:3]#[C:4][C:5]([O:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:3]=[C:4]([C:5]([O:6][H:14])([H:12])[H:13])[H:10])[H:11])([H:7])([H:8])[H:9],80.0985932242104
[C:1]([C@@:2]([C:3](=[O:4])[H:11])([C:5]#[C:6][C:7]([H:13])([H:14])[H:15])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3](=[O:4])[C:5]#[C:6][C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10],81.98530669767622
[C:1]([O+:2]=[C-:3][N:4]([C:5]([H:10])([H:11])[H:12])[H:9])([H:6])([H:7])[H:8]>>[C:1]([O:2]/[C:3](=[N:4]/[C:5]([H:10])([H:11])[H:12])[H:9])([H:6])([H:7])[H:8],40.3013505767509
[C:1]([C:2]([C:3]([C:4]#[N:5])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C@:2]1([H:9])[C:3]([H:11])([H:12])/[C:4]1=[N:5]/[H:10])([H:6])([H:7])[H:8],109.332099588076
[C:1]1([H:6])([H:8])[C:2]([H:9])([H:10])[C:3]1([O:4][H:7])[N:5]([H:11])[H:12]>>[C:1]([C:2]([C:3](=[O:4])[N:5]([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8],42.45961167422449
[C:1]([O:2][C:3]([C:4](=[O+:5][C-:6]([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9].[H:13][H:16]>>[C:1]([O:2][C:3]([C:4]([O:5][C:6]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],3.7016322740414154
[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1](=[C:2]([H:11])[H:12])([H:9])[H:10].[C:3](=[O:4])([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])[H:13].[H:8][H:14],88.94210516845409
[O:1](/[C:2](=[C:3](\[O:4][H:7])[C:5]#[N:6])[H:8])[H:9]>>[O:1]([C:2]([C:3](=[O:4])[C:5]#[N:6])([H:8])[H:9])[H:7],61.39129904899865
[O:1](/[C:2](=[C:4](\[C:3]([O+:6]=[C-:5][H:12])([H:9])[H:10])[H:11])[H:8])[H:7]>>[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:5](=[O:6])[H:12])[H:11])[H:7],41.1564480675186
[C:1]([C:2](=[C:3]=[C:4]([C:6]([H:14])([H:15])[H:16])[H:10])[C:5]([H:11])([H:12])[H:13])([H:7])([H:8])[H:9]>>[C:1]([C:2]#[C:3][C:4]([C:5]([H:11])([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])[H:10])([H:7])([H:8])[H:9],95.6701326002005
[C:1]([C:6]#[C:7][H:15])([H:8])([H:9])[H:10].[C:2]([C:3]([H:12])([H:13])[H:14])(=[C:4]=[O:5])[H:11]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4](=[O:5])[C:6]#[C:7][H:15])[H:11])([H:8])([H:9])[H:10],84.59470653839409
[C:1]([O:2][C:3]([C:4]([C:5]([H:13])([H:14])[H:15])([C:6]([H:16])([H:17])[H:18])[C:7]([H:19])([H:20])[H:21])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([C:4](=[C:5]([H:14])[H:15])[C:7]([H:19])([H:20])[H:21])([H:11])[H:12])([H:8])([H:9])[H:10].[C:6]([H:13])([H:16])([H:17])[H:18],110.52247364767
[C:1]([O:2][C:3]([C:4](=[O:5])[C:6]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O:2]/[C:3](=[C:4](/[O:5][H:10])[C:6]([H:12])([H:13])[H:14])[H:11])([H:7])([H:8])[H:9],64.17766811029931
[C:1]([C:2]#[C:3][H:11])([H:8])([H:9])[H:10].[O:4]1[C:5]([O:6][H:12])=[N:7]1>>[C:1]([c:2]1[c:3]([H:11])[o:4][c:5]([O:6][H:12])[n:7]1)([H:8])([H:9])[H:10],16.157490587024014
[C+:2](=[C:3]=[C-:4][C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])[H:11].[C:1]([H:7])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]#[C:4][C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],9.33572810039901
[N:1]([C:2](=[O:3])[C:4]([C:5]([O:6][H:13])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8]>>[N:1]([C-:2]=[O+:3][C:4]([C:5]([O:6][H:13])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8],106.348830586895
[C:1]([C:2](=[C:3]([H:11])[H:12])[C:5]#[N:6])([H:7])([H:8])[H:9].[O:4]([H:10])[H:13]>>[C:1]([C@@:2]([C:3]([O:4][H:13])([H:11])[H:12])([C:5]#[N:6])[H:10])([H:7])([H:8])[H:9],54.444657010984805
[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([C:5]#[C:6][H:16])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](/[C:3](=[C:5](/[C:4]([H:13])([H:14])[H:15])[C:6][H:16])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],90.28538674914041
[N:1](=[C:2]1\[C:3]([H:8])([H:9])[N:4]=[C:5]([H:10])[N:6]1[H:11])\[H:7]>>[N:1](=[C:2]([C:3](=[N:4]\[C:5](=[N:6]\[H:11])[H:10])/[H:9])\[H:8])\[H:7],70.3542537523456
[C:1]([C:2]([C:3]#[C:4][H:11])=[C:5]=[N:6][H:10])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]([C:3]#[C:4][H:11])([C:5]#[N:6])[H:10])([H:7])([H:8])[H:9],66.9262715570599
[C:1]([C@@:2]([C:3](=[O:4])[H:11])([C:5]#[C:6][H:12])[H:10])([H:7])([H:8])[H:9]>>[C:1](/[C:2](=[C:3](\[O:4][H:10])[H:11])[C:5]#[C:6][H:12])([H:7])([H:8])[H:9],65.64494768349749
[C:1]([O:2][H:15])([H:6])([H:7])[H:8].[C:3]([C:4]([H:10])([H:11])[H:12])(=[C:5]([H:13])[H:14])[H:9]>>[C:1]([O:2][C:3]([C:4]([H:10])([H:11])[H:12])([C:5]([H:13])([H:14])[H:15])[H:9])([H:6])([H:7])[H:8],50.027914751967
